US05334225
To 15 ml of toluene, there were added 4.0 g (32.5 mmol) of N-(2-hydroxy-4-methylphenyl)methylcarbamate, 4.58 g (7.50 mmol) of 2-aminoethanol and 1.93 g (35.8 mmol) of sodium methoxide, followed by stirring at 100° C. for 30 minutes. After cooling, the reaction mixture was poured into 150 ml of water. The toluene layer was removed and the aqueous layer was neutralized with glacial acetic acid. The crystals thus precipitated were filtered off. The filtrate was extracted with 200 ml of ethyl acetate, concentrated under reduced pressure and subjected to silica gel column chromatography (Si60 manufactured by Merck; 230-400 mesh; 200 g; eluent: 5% methanol-chloroform (2,000 ml), 10% methanol-chloroform (2,000 ml)). The fraction of 0 to 1,200 ml of 10% methanol-chloroform was distilled under reduced pressure and dried. Thus 0.20 g (1.0 mmol) of N-(2-hydroxy-4-methylphenyl)-N'-(2-hydroxyethyl)urea was obtained as a pale brown solid. The yield was 3%.

reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
reactant | N-(2-hydroxy-4-methylphenyl)methylcarbamate | 32.5 mmol, 4.0 g | OC1=C(C=CC(=C1)C)CNC([O-])=O
reactant | 2-aminoethanol | 7.50 mmol, 4.58 g | NCCO | C2H7NO
reactant | sodium methoxide | 35.8 mmol, 1.93 g | C[O-].[Na+]
solvent | water | 150 ml | O | H2O
product | N-(2-hydroxy-4-methylphenyl)-N'-(2-hydroxyethyl)urea | 1.0 mmol, 0.20 g, yield was 3% | OC1=C(C=CC(=C1)C)NC(=O)NCCO | C10H14N2O3
